* Z:\home\tantos\unic_stuff\unic\sims\diode-tester.asc
D1 N001 0 MBR0520L
I1 0 N001 PULSE(0 0.1 0 1 1 1 4 10) AC 0.2
.model D D
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.dio
;.tran 1
.dc I1 0 0.2 0.001
.backanno
.end
