* Z:\home\tantos\unic_stuff\unic\sims\gnd_bounce.asc
D1 VGND 0 BAT54
C1 toggle 0 1n
R1 N001 toggle 100
M1 toggle N004 VGND VGND 2N7002
V1 N003 VGND PULSE(0 3.3 0 1n 1n 100n 2000n 10)
R2 N004 N003 0.1
V2 N001 0 5
D2 N001 N002 BAT54
R3 N002 VGND 10
M2 open N005 VGND VGND 2N7002
R4 N005 VGND 0.1
R5 N001 open 10k
C2 open 0 100p
M3 low N006 VGND VGND 2N7002
R6 N006 N002 0.1
R7 N001 low 10k
C3 low 0 100p
.model D D
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10000n
* Toggle gate
* Open gate
* Drive low gate
.backanno
.end
