* Z:\home\tantos\unic\sims\high-voltage-pin-protection-mosfet.asc
V1 N008 0 PULSE(0 5 0 1n 1n 100n 200n 2000)
V2 N003 0 4.5
R1 N010 0 1Mega
R2 N009 N008 0.01
M1 N009 N004 N010 N010 RK7002BM
V3 N013 0 PULSE(0 3.3 0 1n 1n 100n 200n 20)
V4 N005 0 4.5
R3 N011 0 1Mega
R4 N013 N012 100
V5 N016 0 PULSE(0 5 1n 1n 1n 1000 1000 1000)
V6 N014 0 5
R5 N018 0 1Mega
R6 N017 N016 100k
V8 N015 0 5
R7 N019 0 1Mega
R9 N021 N020 100k
V7 N021 0 PULSE(0 3.3 1n 1n 1n 1000 1000 1000)
V9 N024 0 PULSE(5 0 1n 1n 1n 1000 1000 1000)
V10 N022 0 5
R10 N026 0 1Mega
R11 N025 N024 100k
V11 N023 0 5
R12 N027 0 1Mega
R14 N029 N028 100k
V12 N029 0 PULSE(3.3 0 1n 1n 1n 1000 1000 1000)
C1 N011 0 15p
C2 N009 0 20p
R8 N004 N003 10
C3 N004 0 1µ
M2 N011 N005 N012 N012 RK7002BM
M3 N019 N015 N020 N020 RK7002BM
M4 N017 N014 N018 N018 RK7002BM
M5 N025 N022 N026 N026 RK7002BM
M6 N027 N023 N028 N028 RK7002BM
V13 N006 0 PULSE(0 5 0 1n 1n 100n 200n 20)
R13 N007 N006 100
C4 N007 0 50p
D1 N010 N002 BAT54
V14 N001 0 3.3
R15 N002 N001 10
C5 N002 0 1µ
R16 N002 0 3.3k
.model D D
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100000n
* Lots of good data of logic signals: https://www.ti.com/lit/an/sdya009c/sdya009c.pdf?ts=1687728163429
* The problem seems to be that the MOSFET presents \na really high input capacitance\nthus, slowing the signal down quite a bit.\n \nIf this ciruit was inserted into a large fan-out\nnet, things would get ugly pretty quickly.\n \nAs it stands now, we add abour 5ns of\nrise/fall to a 50pF reference load. That is\nhigh, but probably acceptable.
* 11ns rise/fall
* 20pF external load gets us to 11ns rise/fall\nThis means ~30pF load from the circuit.
* 15pF external load gets us to ~11ns rise/fall\nThis means ~35pF load from the circuit.
;.step temp 0 85 85
.backanno
.end
